US07713994B2
6-Methoxy-4-methoxymethylene-4H-isoquinoline-1,3-dione
A mixture of 6-methoxy-4H-isoquinoline-1,3-dione (400 mg, 2.1 mmole), 8 mL of a 4:1 mixture of acetic anhydride and N,N-dimethylformamide and trimethylorthoformate (1.7 mL, 15.5 mmole) is stirred and heated to reflux. After 30 minutes the solvents are removed, the residue treated with hexane-ethyl acetate, the solid collected by filtration, washed with fresh hexane-ethyl acetate and dried to give a yellow solid, 317 mg, (65%), mp 245-7° C., MS (ESI): m/z 234.1 (M+H).

reactant | 6-methoxy-4H-isoquinoline-1,3-dione | 2.1 mmole, 400 mg | COC=1C=C2CC(NC(C2=CC1)=O)=O | C10H9NO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | trimethylorthoformate | 15.5 mmole, 1.7 mL | COC(OC)OC | C4H10O3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-Methoxy-4-methoxymethylene-4H-isoquinoline-1,3-dione | COC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C12H11NO4
